US03979430
3.0 Gm. of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionamide is refluxed in a mixture of 20 ml. of acetic acid and 30 ml. of concentrated hydrochloric acid for 3 hours. The solution is cooled and poured into water. The mixture is extracted with ethyl acetate and the extract is washed, dried and evaporated to yield 90% of 2-(5H-dibenzo[a,d] cyclohepten-5-on-2-yl)propionic acid., m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetamide gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionamide | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)N)C | C18H15NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(5H-dibenzo[a,d] cyclohepten-5-on-2-yl)propionic acid | 90% | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
